US06429214B1
(7-Hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester
A suspension of (7-methoxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester (5.4 g, 21.7 mmol) in 50 ml of methylene chloride at 0° C. was treated with 1.0 M BBr3—CH2Cl2 (200 ml, 200 mmol) under inert gas for 1 hour. The reaction mixture was allowed to warm to room temperature over an additional 2 hours. The volatiles were evaporated in vacuo to a brown oil which was treated with ice-cold methyl alcohol (400 ml×2) and evaporated after each treatment to a residue. The residue was refluxed with 5 ml of 12 N HCl and 100 ml of methyl alcohol for 2 hours and evaporated to a residue which was crystallized from methyl alcohol (25 ml) to give the title compound, (3.9 g) as fluffy tan needles, mp 178-179.5° C.

reactant | (7-methoxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester | 21.7 mmol, 5.4 g | COC(CC1C(NC2=CC(=CC=C2C1)OC)=O)=O | C13H15NO4
reactant | BBr3 CH2Cl2 | 200 mmol, 1.0 M, 200 ml | B(Br)(Br)Br.C(Cl)Cl
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (7-Hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester | 3.9 g | COC(CC1C(NC2=CC(=CC=C2C1)O)=O)=O | C12H13NO4
